US04168269
9,10-Dihydro-6-nitro-4H-thieno[3,4-b][1,5]benzodiazepine
An 8 g. portion of 4,9-dihydro-6-nitro-10H-thieno [3,4-b][1,5]benzodiazepin-10-one in 155 ml. of tetrahydrofuran is stirred, under nitrogen, with cooling in an ice bath. To this is added slowly with stirring 155 ml. of 1M borane in tetrahydrofuran over a period of 15 minutes. The reaction mixture is then stirred at room temperature for one hour and then heated under reflux with stirring for 5 hours. The mixture is stirred at room temperature for 48 hours. The mixture is stirred and cooled in an ice bath while 45 ml. of 6N hydrochloric acid is added dropwise. The tetrahydrofuran is distilled off on a steam bath and the acidic residue is treated portionwise, with swirling in ice with 35 g. of sodium hydroxide pellets. The reaction mixture is extracted with benzene. The benzene extracts are concentrated, and the residue is repeatedly triturated with ether and filtered. The ether filtrate produces red crystals which are collected, washed with ether and dried. This solid is heated in 60 ml. of benzene to solution, filtered, and the filtrate is concentrated to 30 ml. and cooled. The solid is collected, washed with benzene and hexane and dried giving the desired product, mp. 184°-186° C.

reactant | 4,9-dihydro-6-nitro-10H-thieno [3,4-b][1,5]benzodiazepin-10-one | [N+](=O)([O-])C1=CC2=C(NC(C=3C(N2)=CSC3)=O)C=C1 | C11H7N3O3S
reactant | borane | 1M | B | BH3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9,10-Dihydro-6-nitro-4H-thieno[3,4-b][1,5]benzodiazepine | [N+](=O)([O-])C1=CC2=C(NCC=3C(N2)=CSC3)C=C1 | C11H9N3O2S
